US04066655
Ethyl 8-chloro-4,10-dihydro-4,10-dioxo-1H-1-benzopyrano[3,2-b]pyridine-3-carboxylate
Diethyl {[(6-chloro-4-oxo-4H-1-benzopyran-3-yl)amino]methylene}propanedioate (5.0 g, 0.0137 mole) was added to diphenyl ether (30 ml) at 200°. The reaction mixture was refluxed (bath temp. 280°-290° ) for 60 min. The product, which crystallized out on cooling, was filtered off and washed with ether. Recrystallization from DMF gave white crystals (4.05 g, 93%), m.p. 330°-338° (dec).

reactant | Diethyl {[(6-chloro-4-oxo-4H-1-benzopyran-3-yl)amino]methylene}propanedioate | 0.0137 mole, 5.0 g | ClC=1C=CC2=C(C(C(=CO2)NC=C(C(=O)OCC)C(=O)OCC)=O)C1 | C17H16ClNO6
solvent | diphenyl ether | 30 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | Ethyl 8-chloro-4,10-dihydro-4,10-dioxo-1H-1-benzopyrano[3,2-b]pyridine-3-carboxylate | 4.05 g, 93% | ClC=1C=CC2=C(C(C=3NC=C(C(C3O2)=O)C(=O)OCC)=O)C1 | C15H10ClNO5
